US04642308
The procedure is similar to that described in Example 1, but starting with benzoic acid (13.4 g), N,N'carbonyldiimidazole (17.8 g) and 2-amino-7-methoxy-1,8naphthyridine (12.3 g). The product produced by precipitation in water (20 g; m.p. 80° C.) is dissolved in boiling acetonitrile (200 cc). After 1 hour's cooling at 4° C., the crystallised solid is separated by filtration, washed with acetonitrile (2×10 cc) and dried at 40° C. under reduced pressure (0.067 kPa). N-(7-methoxy-1,8-naphthyridin-2-yl)benzamide (7.8 g) is produced, m.p. 134° C. EXAMPLE 10

reactant | benzoic acid | 13.4 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 2-amino-7-methoxy-1,8naphthyridine | 12.3 g | NC1=NC2=NC(=CC=C2C=C1)OC | C9H9N3O
reactant | acetonitrile | 200 cc | C(C)#N | C2H3N
solvent | water | 20 g | O | H2O
product | N-(7-methoxy-1,8-naphthyridin-2-yl)benzamide | 7.8 g | COC1=CC=C2C=CC(=NC2=N1)NC(C1=CC=CC=C1)=O | C16H13N3O2
